US05281612
Lithium aluminum hydride (0.55 g, 0.014 mole) was added to tetrahydrofuran (45 mL) with stirring under nitrogen. 4-(1-Aminoethyl)-1-benzyl-2-oxopyrrolidine (1.60 g, 0.0073 mole) was added in several portions over 30 minutes and the reaction was brought to reflux over 75 minutes. The reaction was refluxed 16 hours and cooled to room temperature. The reaction was treated with water (0.55 mL), 10% NaOH (0.55 mL), and water (1.65 mL) slowly dropwise and the solid filtered off and washed with dichloromethane. The combined filtrates were evaporated under reduced pressure to give 3-(1-aminoethyl)-1-benzylpyrrolidine isomer A (1.05 g, 70%) as a yellow oil.

reactant | Lithium aluminum hydride | 0.014 mole, 0.55 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
reactant | 4-(1-Aminoethyl)-1-benzyl-2-oxopyrrolidine | 0.0073 mole, 1.60 g | NC(C)C1CC(N(C1)CC1=CC=CC=C1)=O | C13H18N2O
reactant | NaOH | 0.55 mL | [OH-].[Na+]
solvent | water | 1.65 mL | O | H2O
solvent | water | 0.55 mL | O | H2O
product | 3-(1-aminoethyl)-1-benzylpyrrolidine | NC(C)C1CN(CC1)CC1=CC=CC=C1 | C13H20N2
